US06342065B1
Two-step Synthesis of a 91/9 l-lactide/trimethylene Carbonate Copolymer
The copolymer is prepared as in Example 15, except substituting trimethylene carbonate for ε-caprolactone, while maintaining an identical l-lactide mole fraction in the initial charge. The anticipated inherent viscosity is about 1.51 dl/g.

reactant | ε-caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | l-lactide | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
product | l-lactide trimethylene Carbonate | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(OCCCO1)=O | InChI=1S/C6H8O4.C4H6O3/c1-3-5(7)10-4(2)6(8)9-3;5-4-6-2-1-3-7-4/h3-4H,1-2H3;1-3H2/t3-,4-;/m0./s1
